US06680313B2
The procedure of Example 1a) was repeated, except that 743 mg of 4-nitrobenzyl (1R,3R,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-oxo-1-carbapenam-3-carboxylate and 1.06 g 2-(tri-n-butylstannyl)-7-trifluoromethylthioimidazo[5,1-b]thiazole were used as the starting compounds. Thus, 172 mg of 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(7-trifluoromethylthioimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate was prepared.

reactant | 4-nitrobenzyl (1R,3R,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-oxo-1-carbapenam-3-carboxylate | 743 mg | O[C@H](C)[C@@H]1[C@@H]2N([C@H](C([C@@H]2C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H18N2O7
reactant | 2-(tri-n-butylstannyl)-7-trifluoromethylthioimidazo[5,1-b]thiazole | 1.06 g | C(CCC)[Sn](C1=CN2C(S1)=C(N=C2)SC(F)(F)F)(CCCC)CCCC
product | 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(7-trifluoromethylthioimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate | 172 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)SC(F)(F)F)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C23H19F3N4O6S2
